US06610677B2
[2-(2-Chloro-phenyl)-pyrido[3,4-d]pyrimidin-4-yl]-(7-fluoro-1H-indazol-3-yl)-amine (II-218)
Prepared from 4-Chloro-2-(2-chloro-phenyl)-pyrido[3,4-d]pyrimidine (100 mg, 0.36 mmol) and 7-Fluoro-1H-indazol-3-ylamine (108 mg, 0.72 mmol). Purification by preparative HPLC afforded the title compound as a yellow, di-TFA salt (48.7 mg, 22% yield). HPLC-Method A, Rt 3.35 min; 1H NMR (DMSO, 500 MHz): δ12.95 (1H, s), 10.90 (1H, bs), 9.25 (1H, s), 8.75 (1H, m), 8.55 (1H, m), 7.70-7.35 (5H, m), 7.25(1H, m), 6.95 (1H, m),; MS (m/z), MH+ 391.08.

reactant | 4-Chloro-2-(2-chloro-phenyl)-pyrido[3,4-d]pyrimidine | 0.36 mmol, 100 mg | ClC=1C2=C(N=C(N1)C1=C(C=CC=C1)Cl)C=NC=C2 | C13H7Cl2N3
reactant | 7-Fluoro-1H-indazol-3-ylamine | 0.72 mmol, 108 mg | FC=1C=CC=C2C(=NNC12)N | C7H6FN3
product | [2-(2-Chloro-phenyl)-pyrido[3,4-d]pyrimidin-4-yl]-(7-fluoro-1H-indazol-3-yl)-amine | ClC1=C(C=CC=C1)C=1N=C(C2=C(N1)C=NC=C2)NC2=NNC1=C(C=CC=C21)F | C20H12ClFN6
